US03997666
20.0 g. (0.1 mol) 2,3-epoxy-1-(1-naphthyloxy)-propane were mixed with 30 ml. ethanol and 19.2 g. (0.1 mol) 1-(4-methoxyphenyl)-piperazine, whereafter the reaction mixture was heated to 60° C. and maintained at this temperature for 6 hours. The reaction mixture was then left to stand overnight and the ethanol subsequently evaporated off. The oily residue was dissolved in chloroform, hydrogen chloride was passed through the chloroform solution and then ether was added, the dihydrochloride thereby precipitating out. This was filtered off with suction and recrystallized from methanol/ethanol (1:3). There was obtained 1-(4-methoxy-phenyl)-4-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine in a yield of 76% of theory. The product had a melting point of 237° - 238° C.

reactant | 2,3-epoxy-1-(1-naphthyloxy)-propane | 0.1 mol | O1C(COC2=CC=CC3=CC=CC=C23)C1 | C13H12O2
reactant | 1-(4-methoxyphenyl)-piperazine | 0.1 mol | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-methoxy-phenyl)-4-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine | yield of 76% | COC1=CC=C(C=C1)N1CCN(CC1)CC(COC1=CC=CC2=CC=CC=C12)O | C24H28N2O3
